US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(pyrrolidin-1-ylcarbonyl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from (1S)—N-[1-(1-tert-butoxycarbonyl-5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide, TBTU, diisopropylethylamine, and pyrrolidine in tetrahydrofuran followed by treatment with trifluoroacetic acid analogously to Example 17. Yield: 56%; Rf value: 0.22 (silica gel; ethyl acetate/ethanol=9:1); C28H32ClN5O3 (522.05); mass spectrum: (M+H)+=522/524 (chlorine isotope).

reactant | (1S)—N-[1-(1-tert-butoxycarbonyl-5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)Cl)[C@H](CCC(=O)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C29H33ClN4O6
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(pyrrolidin-1-ylcarbonyl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 56% | ClC1=CC2=C(NC(=N2)[C@H](CCC(=O)N2CCCC2)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C28H32ClN5O3
